US05770598
3-Bromo4-methyldibenzofuran
4-Methyldibenzofuran (30 g, 165 mmol) and sodium carbonate (17.5 g, 165 mmol) were mixed in hexane (300 ml) and bromine (26.4 g, 165 mmol) was added. The reaction was stirred at room temperature for 72 hours, then the solvent was removed in vacuo to give an oil which crystallised. Recrystallisation from IMS yielded several batches of off-white crystals (31.22 g, 72%) with m.p. 124°-125° C. (Found: C, 58.59; H, 3,28. C13H9BrO 0.31H2O requires: C, 58.58; H, 3.63%); δH [2H6 ]-DMSO 8.15 (1H, d), 7.9 (1H, d), 7.7 (1H, d), 7.4 (1H, t), 7.05 (2H, m), 2.6 (3H, s); m/z 260/262 (M+).

reactant | 4-Methyldibenzofuran | 165 mmol, 30 g | CC1=CC=CC2=C1OC1=C2C=CC=C1 | C13H10O
reactant | sodium carbonate | 165 mmol, 17.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 165 mmol, 26.4 g | BrBr | Br2
solvent | hexane | 300 ml | CCCCCC | C6H14
product | 3-Bromo4-methyldibenzofuran | BrC=1C=CC2=C(OC3=C2C=CC=C3)C1C | C13H9BrO
